data/mechanism_extracts/JACS/10.1021_jacs.2c05126.json
{"doi": "10.1021_jacs.2c05126", "journal": "JACS", "is_review": false, "rxn_class_summary": "Cu-electrocatalyzed 1,2-diazidation of alkenes using TMSN3 as azide source under anodic oxidation", "mechanism_family": ["electrocatalysis_inner_sphere", "radical_polar_crossover", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of Cu(II) azide to Cu(III) azide, which homolyzes to release an azide radical that initiates alkene azidation; Cu(I) azide is reoxidized at the anode", "key_intermediates": [{"name": "Cu(III) triazide [Cu^III(N3)3]", "smiles": null, "role": "reactive"}, {"name": "Cu(II) diazide [Cu^II(N3)2]", "smiles": null, "role": "resting_state"}, {"name": "Cu(I) azide [Cu^I(N3)]", "smiles": null, "role": "transient"}, {"name": "azide radical (N3•)", "smiles": "[N-]=[N+]=[N]", "role": "reactive"}, {"name": "β-azido alkyl carbon radical", "smiles": null, "role": "reactive"}, {"name": "ring-opened homoallylic radical from cyclopropane probe 43", "smiles": null, "role": "transient"}, {"name": "cyclized pyrrolidinyl radical 46 from diene probe", "smiles": null, "role": "transient"}, {"name": "putative carbocation 51 (β-azido cation, not observed)", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the anode, Cu(II) azide is oxidized to Cu(III) azide which releases an azide radical; the N3• adds reversibly to the alkene to give a β-azido C-radical that is captured by Cu(II)(N3)2 via inner-sphere ligand transfer to deliver the second N3 and regenerate Cu(I), which is reoxidized at the anode (with H2 evolution at the cathode).", "rate_determining_step": null, "probe_reagents": [{"name": "vinylcyclopropane 41 (radical clock)", "smiles": "C(=C)C1CC1c1ccccc1", "purpose": "radical_clock", "observation": "Ring-opened (E)-1,4-diazide 42 formed in 15%, supporting a β-azido C-radical intermediate 43"}, {"name": "N-tosyl allyl-methallyl amine 44 (radical cyclization probe)", "smiles": null, "purpose": "radical_clock", "observation": "Cyclized pyrrolidine 45 obtained in 21% (2:1 dr), supporting alkyl radical intermediate 46"}, {"name": "N-allyl benzamide 47 (carbocation probe)", "smiles": null, "purpose": "intermediate_trap", "observation": "Only acyclic diazide 48 (59%) formed; no oxazoline 49 from cation cyclization, arguing against carbocation 51"}, {"name": "jasmone-type Z-alkene 52 (Z/E scrambling probe)", "smiles": null, "purpose": "other", "observation": "Recovered alkene 52 isomerized from 10:1 Z/E to 1:1.1 Z/E at 73% conversion, indicating reversible N3• addition to the alkene"}, {"name": "stoichiometric Cu(acac)2 without electricity", "smiles": null, "purpose": "redox_probe", "observation": "<10% conversion, no diazide 2 formed; Cu(II) azide alone is not competent — higher-valent Cu(III) needed"}, {"name": "cyclic voltammetry of Cu(acac)2 with TMSN3/K3PO4 ± alkene", "smiles": null, "purpose": "redox_probe", "observation": "Cu(II/III) wave observed; addition of alkene did not increase Cu(II/III) peak current, arguing against fast direct ligand transfer from Cu(III) to alkene"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "stoichiometric_intermediate", "intermediate_trap_other", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors do not exclude a minor pathway where N3• is generated by direct anodic oxidation of azide. For aryl alkenes, a benzylic carbocation pathway may operate due to easier oxidation of benzylic radicals, even though alkyl alkenes (probe 47) show no carbocation behavior. Reversible azide radical addition to alkenes (jasmone E/Z scrambling) is explicitly invoked."}
